US07087601B2
A solution of 5-(1,3-benzoxazol-2-yl)-2-methylphenol (200 mg, 0.89 mmol) in THF (6 mL) was cooled to −78° C. under Argon and sodium hydride (24 mg, 1.0 mmol) was added. After 30 min at this temperature, bromomethyl ether (225 mg, 1.8 mmol) was added via syringe. The reaction was warmed to rt for 1 h. The reaction mixture was concentrated and the residue was purified by flash column (silica gel, hexanes:EtOAc 4:1) to afford 2-[3-(methoxymethoxy)-4-methylphenyl]-1,3-benzoxazole. MS (ESI) 270 (M+H)+.

reactant | 5-(1,3-benzoxazol-2-yl)-2-methylphenol | 0.89 mmol, 200 mg | O1C(=NC2=C1C=CC=C2)C=2C=CC(=C(C2)O)C | C14H11NO2
reactant | sodium hydride | 1.0 mmol, 24 mg | [H-].[Na+]
reactant | bromomethyl ether | 1.8 mmol, 225 mg | BrCOCBr | C2H4Br2O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 2-[3-(methoxymethoxy)-4-methylphenyl]-1,3-benzoxazole | COCOC=1C=C(C=CC1C)C=1OC2=C(N1)C=CC=C2 | C16H15NO3
